US05264430
To an ice-cooled mixture of 7-ADCA (10.0 g, 0.4667 mol), ethanol (270 ml), water (83 ml) and hydrobromic acid (48%, 56.7 ml), sodium nitrite (4.67 g, 0.6769 mol) was added in small portions over 25 minutes and the mixture was stirred for 2.5 hours at ice-temperature. Ethanol was removed under reduced pressure and the residual mass was diluted with methylene chloride, washed with water. The aqueous washings were saturated with brine and re-extracted with methylene chloride. The combined organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated to give 9.8 g (75.5%) of 7α-bromo-3-methyl-3-cephem-4-carboxylic acid. This crude acid was directly used for the next step without further purification.

reactant | 7-ADCA | 0.4667 mol, 10.0 g | CC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C8H10N2O3S
reactant | ethanol | 270 ml | C(C)O | C2H6O
reactant | hydrobromic acid | 56.7 ml | Br | BrH
reactant | sodium nitrite | 0.6769 mol, 4.67 g | N(=O)[O-].[Na+]
solvent | water | 83 ml | O | H2O
product | 7α-bromo-3-methyl-3-cephem-4-carboxylic acid | 9.8 g, 75.5% | Br[C@@H]1[C@@H]2N(C(=C(CS2)C)C(=O)O)C1=O | C8H8BrNO3S
